US09238640B2
Preparation of 2-(4-((3R,5S)-4-Isopropyl-3,5-dimethylpiperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
A mixture of 4-(4-isopropyl-3,5-dimethylpiperazin-1-yl)benzaldehyde (0.400 g, 1.50 mmol), NaHSO3 (0.195 g, 1.80 mmol), and p-TsOH (0.030 g, 0.15 mmol) was added to a solution of 2-amino-4,6-dimethoxybenzamide (0.400 g, 2.40 mmol) in DMA (10 mL). The reaction was stirred at 140° C. for 4 hours, then at room temperature overnight. The mixture was diluted with H2O and extracted with CH2Cl2. The organics were washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. Purification by flash chromatography on silica gel, eluting with 1% to 10% MeOH/CH2Cl2, followed by reverse-phase chromatography, eluting with 10% to 90% CH3CN in H2O, afforded the title compound (0.114 g, 17%). 1H NMR (300 MHz, DMSO-d6): δ 11.68 (s, 1H), 8.09 (d, J=8.9 Hz, 2H), 6.78 (d, J=9.0 Hz, 2H), 6.66 (s, 1H), 6.44 (s, 1H), 3.87 (s, 3H), 3.83 (s, 3H), 3.41-3.44 (m, 2H), 3.11-3.23 (m, 5H), 1.00-1.03 (m, 12H). ESI MS m/z 437 [M+H]+.

reactant | 4-(4-isopropyl-3,5-dimethylpiperazin-1-yl)benzaldehyde | 1.50 mmol, 0.400 g | C(C)(C)N1C(CN(CC1C)C1=CC=C(C=O)C=C1)C | C16H24N2O
reactant | NaHSO3 | 1.80 mmol, 0.195 g | OS(=O)[O-].[Na+]
reactant | p-TsOH | 0.15 mmol, 0.030 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | 2-amino-4,6-dimethoxybenzamide | 2.40 mmol, 0.400 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | H2O | O | H2O
product | 2-(4-((3R,5S)-4-Isopropyl-3,5-dimethylpiperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.114 g, 17% | C(C)(C)N1[C@@H](CN(C[C@@H]1C)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C25H32N4O3
